US08383644B2
Suzuki coupling.: To a mixture of (S)-2-tert-butoxycarbonylamino-3-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propionic acid methyl ester (8.22 g) in 140 mL toluene and 40 mL water was added 4-bromo-2,3-dimethyl-pyridine (6.77 g), Na2CO3 (7.5 g), and Pd(PPh3)4. The mixture was purged with nitrogen and stirred under nitrogen at 80° C. for 18 h. The mixture was then cooled to rt and poured into water-EtOAc. The organic layer was washed with water and saturated brine, dried over Na2SO4 and concentrated under reduced pressure. The residue was purified by column chromatography (hexanes-EtOAc) to provide (S)-2-tert-butoxycarbonylamino-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid methyl ester (4.5 g). LCMS (m/z) 386.

reactant | (S)-2-tert-butoxycarbonylamino-3-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propionic acid methyl ester | 8.22 g | COC([C@H](CC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)NC(=O)OC(C)(C)C)=O | C21H32BNO6
reactant | 4-bromo-2,3-dimethyl-pyridine | 6.77 g | BrC1=C(C(=NC=C1)C)C | C7H8BrN
reactant | Na2CO3 | 7.5 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 140 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 40 mL | O | H2O
catalyst | Pd(PPh3)4 | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-2-tert-butoxycarbonylamino-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid methyl ester | 4.5 g | COC([C@H](CC1=CC=C(C=C1)C1=C(C(=NC=C1)C)C)NC(=O)OC(C)(C)C)=O | C22H28N2O4
